US08049015B2
(2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester and bis(pinacolato)diboron were reacted as described in Example 1, Step 8 to provide ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester.

reactant | (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H17BrF3NO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H29BF3NO4
